US07919496B2
1,1-Thiocarbonyldiimidazole (2.14 g, 11.4 mmol) was added to the mixture of piperazin-1-yl-(2-trifluoromethylphenyl)methanone (3.36 g, 11.40 mmol) and triethyl amine (1.75 mL, 12.5 mmol) in 50 mL of dichloromethane at 0° C. The mixture was warmed up to room temperature and then stirred at room temperature overnight. The reaction mixture was washed with brine (2×15 mL), dried over anhydrous Na2SO4, concentrated to give the light yellow foam. The crude compound was triturated by anhydrous ether to afford [4-(imidazole-1-carbothioyl)piperazin-1-yl]-(2-trifluoromethylphenyl)methanone as a white solid in 96% yield (4.40 g).

reactant | 1,1-Thiocarbonyldiimidazole | 11.4 mmol, 2.14 g | C1=CN(C=N1)C(=S)N2C=CN=C2 | C7H6N4S
reactant | piperazin-1-yl-(2-trifluoromethylphenyl)methanone | 11.40 mmol, 3.36 g | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
reactant | triethyl amine | 12.5 mmol, 1.75 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | [4-(imidazole-1-carbothioyl)piperazin-1-yl]-(2-trifluoromethylphenyl)methanone | 96% yield | N1(C=NC=C1)C(=S)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H15F3N4OS
